US07153965B2
The reaction is carried out, under nitrogen, in a 1 L×4 neck flask equipped with a mechanical stirrer, water condenser (with gas inlet), and a thermocouple. The reactor is charged with 5-methylpyrazinecarboxylic acid (100 g), ethanol (300 g) and sulfuric acid (2 g). The contents are refluxed for eight hours at 78° C. The reaction mixture is cooled to ambient temperature and sodium bicarbonate (4 g) is added. About 75% of the solvent is removed under reduced pressure and the resulting suspension is allowed to stand overnight. The solids are filtered and washed with cold methanol (2×80 g). Drying under oven (25 inches of Hg) yielded 101.25 g (84%) of 5-methyl-2-pyrazinecarboxylic acid, ethyl ester.

reactant | 5-methylpyrazinecarboxylic acid | 100 g | CC=1N=CC(=NC1)C(=O)O | C6H6N2O2
reactant | ethanol | 300 g | C(C)O | C2H6O
catalyst | sulfuric acid | 2 g | S(O)(O)(=O)=O | H2O4S
catalyst | sodium bicarbonate | 4 g | C([O-])(O)=O.[Na+]
product | 5-methyl-2-pyrazinecarboxylic acid, ethyl ester | 101.25 g, 84% | CC=1N=CC(=NC1)C(=O)OCC | C8H10N2O2
